US07399774B2
6-(7-Oxo-5,6,7,8-tetrahydro-naphthalen-1-yloxy)-nicotinamide
Using a method similar to Intermediate 1, using 8-hydroxy-2-tetralone (J. Med. Chem. (1978), 21(9), 913-22.) (1.55 g, 9.55 mmol), 6-chloronicotinamide (1.49 g, 9.55 mmol) and K2CO3 (1.98 g, 14.3 mmol) gives the title compound (652 mg),after purification on silica gel (50% THF/DCM), as an yellow foam. Mass spectrum (ion spray): m/z=283 (M+1); 1HNMR (CDCl3): 8.52 (s, 1H), 8.18 (d, 1H), 7.30 (t, 1H), 7.17 (d, 1H), 7.02 (m, 2H), 5.92 (broad, 2H), 3.42 (s, 2H), 3.15 (t, 2H), 2.61 (t, 2H).

reactant | 8-hydroxy-2-tetralone | 9.55 mmol, 1.55 g | OC=1C=CC=C2CCC(CC12)=O | C10H10O2
reactant | 6-chloronicotinamide | 9.55 mmol, 1.49 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | K2CO3 | 14.3 mmol, 1.98 g | C(=O)([O-])[O-].[K+].[K+]
product | 6-(7-Oxo-5,6,7,8-tetrahydro-naphthalen-1-yloxy)-nicotinamide | O=C1CCC=2C=CC=C(C2C1)OC1=NC=C(C(=O)N)C=C1 | C16H14N2O3
